US08242260B2
To a glass pressure vessel was added 3-bromo-2-chloroaniline (3.08 g, 14.9 mmol), bis(pinacolato)diboron (4.55 g, 17.9 mmol), tricyclohexylphosphine (0.29 g, 1.04 mmol), potassium acetate (2.2 g, 22.4 mmol), and Pd2 dba3 (0.41 g, 0.45 mmol) in 1,4-dioxane (75 mL) to give a red suspension which was sparged with nitrogen, and the reaction vessel was then sealed. The reaction was heated in an oil bath to 120° C. for 2 hours. LCMS of an aliquot indicted complete conversion and the reaction was allowed to cool to room temperature. SiliaBond DMT (4 g from SiliCycle) was added and the resulting mixture was stirred at room temperature for 30 minutes, then filtered through a plug of neutral alumina layered with SiO2. The filter cake was washed thoroughly with EtOAc and the combined filtrates were partitioned water. The phases were separated and the aqueous portion was extracted with EtOAc. The combined organic portions were washed with water (2×), brine, dried (Na2SO4), and concentrated to provide 2-chloro-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (1.6 g) as a dark yellow crystalline solid which was used without further purification: LCMS(m/z) 254.0 (MH+); tR=0.91 minute.

reactant | 3-bromo-2-chloroaniline | 14.9 mmol, 3.08 g | BrC=1C(=C(N)C=CC1)Cl | C6H5BrClN
reactant | bis(pinacolato)diboron | 17.9 mmol, 4.55 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | tricyclohexylphosphine | 1.04 mmol, 0.29 g | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | potassium acetate | 22.4 mmol, 2.2 g | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 75 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2 dba3 | 0.45 mmol, 0.41 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-chloro-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 1.6 g | ClC1=C(N)C=CC=C1B1OC(C(O1)(C)C)(C)C | C12H17BClNO2
